US07449475B2
(3S)-N-(5-chloro-2-[(2S)-oxiran-2-ylmethoxy]phenyl}-3-hydroxypyrrolidine-1-carboxamide
A solution of (3S)-N-(5-chloro-2-hydroxyphenyl)-3-hydroxypyrrolidine-1-carboxamide (232 mg, 0.90 mmol), (2S)-oxiran-2-ylmethyl 3-nitrobenzenesulfonate (234 mg, 0.90 mmol) and caesium carbonate (369 mg, 1.13 mmol) in dimethylformamide (9 mL) was stirred at room temperature, over night. The mixture was partitioned between water and ethyl acetate, and the organic phase was washed twice with water and once with brine, and finally concentrated. The crude material was purified by HPLC on C 18 (“Kromasil” column, 10 um, acetonitrile/water 35/65 to 85/15 over 30 min), yielding the titled compound (82 mg, 29%).

reactant | (3S)-N-(5-chloro-2-hydroxyphenyl)-3-hydroxypyrrolidine-1-carboxamide | 0.90 mmol, 232 mg | ClC=1C=CC(=C(C1)NC(=O)N1C[C@H](CC1)O)O | C11H13ClN2O3
reactant | (2S)-oxiran-2-ylmethyl 3-nitrobenzenesulfonate | 0.90 mmol, 234 mg | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@H]1OC1 | C9H9NO6S
reactant | caesium carbonate | 1.13 mmol, 369 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 9 mL | CN(C=O)C | C3H7NO
product | (3S)-N-(5-chloro-2-[(2S)-oxiran-2-ylmethoxy]phenyl}-3-hydroxypyrrolidine-1-carboxamide | 82 mg, 29% | ClC=1C=CC(=C(C1)NC(=O)N1C[C@H](CC1)O)OC[C@H]1OC1 | C14H17ClN2O4
